US06255305B1
c) 7-Cyclopentyl-6-(pyridin-2-ylmethoxy)-3-(thiophen-2-yl)-1,2,4-triazolo[4,3-b]pyridazine
b 2-Hydroxymethylpyridine (56 mg) was dissolved in dimethylformamide (2 ml) under N2. Sodium hydride (60% w/w in oil, 21 mg) was added followed after 5-10 minutes by 6-chloro-7-cyclopentyl-3-(thiophen-2-yl)-1,2,4-triazolo[4,3-b]pyridazine (100 mg). Reaction was stirred at room temperature for 18 hours, partitioned between ethyl acetate and water, organic phase separated dried (MgSO4) and evaporated to dryness. Recrystallized in ethyl acetate in ether or methanol to give pure product. 1H NMR (250 MHz, CDCl3) δ1.73 (6 H, m), 2.16 (2 H, m) 3.38 (1 H, m), 5.68 (2 H, s), 7.21 (1 H, m), 7.28 (1 H, m), 7.51 (2 H, m), 7.77 (1 H, m), 7.88 (1 H, d, J=1.1 Hz), 8.15 (1 H, m), 8.65 (1 H, m); MS (ES+) m/e 377 [MH]+.

reactant | 2-Hydroxymethylpyridine | 56 mg | OCC1=NC=CC=C1 | C6H7NO
reactant | Sodium hydride | 21 mg | [H-].[Na+]
reactant | 6-chloro-7-cyclopentyl-3-(thiophen-2-yl)-1,2,4-triazolo[4,3-b]pyridazine | 100 mg | ClC=1C(=CC=2N(N1)C(=NN2)C=2SC=CC2)C2CCCC2 | C14H13ClN4S
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 7-Cyclopentyl-6-(pyridin-2-ylmethoxy)-3-(thiophen-2-yl)-1,2,4-triazolo[4,3-b]pyridazine | C1(CCCC1)C1=CC=2N(N=C1OCC1=NC=CC=C1)C(=NN2)C=2SC=CC2 | C20H19N5OS
